US08349880B2
Step AB (1): 2-(2,4-Dichlorophenyl)acetic acid was deprotonated with NaHMDS and reacted with 3-bromoprop-1-ene using a procedure analogous to Step AA (1) to afford 2-(2,4-dichlorophenyl)pent-4-enoic acid as a clear viscous oil. LC-MS (M−H)− 243.1. 1H NMR (500 MHz, chloroform-d) δ ppm 7.42 (d, J=2.14 Hz, 1 H) 7.31-7.36 (m, 1 H) 7.25 (dd, J=8.24, 2.14 Hz, 1 H) 5.67-5.77 (m, J=17.05, 10.19, 6.83, 6.83 Hz, 1 H) 5.07 (dd, J=17.09, 1.53 Hz, 1 H) 5.04 (d, J=10.38 Hz, 1 H) 4.26 (t, J=7.48 Hz, 1 H) 2.81 (dt, J=14.34, 7.17 Hz, 1 H) 2.55 (dt, J=14.57, 7.21 Hz, 1 H).

reactant | 2-(2,4-Dichlorophenyl)acetic acid | ClC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-bromoprop-1-ene | BrCC=C | C3H5Br
product | 2-(2,4-dichlorophenyl)pent-4-enoic acid | ClC1=C(C=CC(=C1)Cl)C(C(=O)O)CC=C | C11H10Cl2O2
